US07919628B2
a) 1-(6-Trifluoromethyl-pyridin-3-ylmethoxy)-naphthalene-2-carboxylic acid (cyano-dimethyl-methyl)-amide
In analogy to steps a) and b) of example 3 starting from 1-hydroxy-naphthalene-2-carboxylic acid methyl ester using 5-chloromethyl-2-trifluoromethyl-pyridine and performing the amidation reaction using 2-amino-2-methyl-propionitrile 1-(6-trifluoromethyl-pyridin-3-ylmethoxy)-naphthalene-2-carboxylic acid (cyano-dimethyl-methyl)-amide was obtained as a brown oil.

reactant | 1-hydroxy-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=C(C2=CC=CC=C2C=C1)O | C12H10O3
reactant | 5-chloromethyl-2-trifluoromethyl-pyridine | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | 2-amino-2-methyl-propionitrile 1-(6-trifluoromethyl-pyridin-3-ylmethoxy)-naphthalene-2-carboxylic acid (cyano-dimethyl-methyl)-amide | C(#N)C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=CC1)C(F)(F)F.NC(C#N)(C)C
product | 1-(6-Trifluoromethyl-pyridin-3-ylmethoxy)-naphthalene-2-carboxylic acid (cyano-dimethyl-methyl)-amide | C(#N)C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=CC1)C(F)(F)F | C22H18F3N3O2
